US07435837B2
Treatment of (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (6.64 g, 16.8 mmol) with sodium azide (3.28 g, 50.4 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran. To a solution of (±)-2-(azidomethyl)-5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran (4.44 g, 16.71 mmol) in tetrahydrofuran (100 mL) was added triphenylphoshine (5.25 g, 20.05 mmol) followed by water (10 mL) and the reaction mixture was allowed to stir at room temperature for 12 h. The solvent was removed in vacuo to provide a crude solid. Purification by flash column chromatography (silica, 10% ammonium hydroxide in methanol:ethyl acetate 1:9) provided a colorless oil. The oil was re-dissolved in isopropanol (5 mL) and hydrogen chloride (20.0 mL, 1.0 N in diethyl ether) was added. The resulting precipitate was filtered, washed (diethyl ether), and dried to afford 4.08 g (88%) of (±)-1-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp >225° C. (dec); Anal. calcd. for C13H18ClNOHCl: C, 56.53; H, 6.93; N, 5.07. Found: C, 56.56; H, 6.91; N, 4.94.

reactant | (±)-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 16.8 mmol, 6.64 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=C(C=C2C(C)C)Cl)C | C20H23ClO4S
reactant | sodium azide | 50.4 mmol, 3.28 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C(=C(C=C2C(C)C)Cl)C | C13H16ClN3O
reactant | (±)-2-(azidomethyl)-5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran | 16.71 mmol, 4.44 g | N(=[N+]=[N-])CC1OC2=C(C1)C(=C(C=C2C(C)C)Cl)C | C13H16ClN3O
reactant | triphenylphoshine | 20.05 mmol, 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrogen chloride | 1.0 N, 20.0 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | water | 10 mL | O | H2O
product | (±)-1-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 4.08 g, 88% | ClC=1C=C(C2=C(CC(O2)CN)C1C)C(C)C | C13H18ClNO
